US07612067B2
C. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(tetrahydro-pyran-4-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine.
Using a procedure similar to Example 25, 4-(5-bromo-4-methyl-thiophen-2-yl)-tetrahydropyran (0.83 g, 3.19 mmol), 1.56 M n-Bu-Li (2.04 mL, 3.19 mmol), ZnCl2 (6.4 mL, 3.19 mmol), 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.50 g, 1.56 mmol) and Pd(PPh3)4 (0.092 g, 0.008 mmol) furnish the title compound (0.072 g, 0.18 mmol, 11%). Spectrum identical to that from Method A.

reactant | 4-(5-bromo-4-methyl-thiophen-2-yl)-tetrahydropyran | 3.19 mmol, 0.83 g | BrC1=C(C=C(S1)C1CCOCC1)C | C10H13BrOS
reactant | n-Bu-Li | 3.19 mmol, 1.56 M, 2.04 mL | C(CCC)[Li]
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.56 mmol, 0.50 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
catalyst | ZnCl2 | 3.19 mmol, 6.4 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.008 mmol, 0.092 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(tetrahydro-pyran-4-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.18 mmol, 0.072 g, 11% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2CCOCC2 | C23H31N3OS
